US06689806B1
Diethyl azodicarboxylate (1.58 mL, 10 mmol) was added to a solution of triphenylphosphine (2.62 g, 10 mmol) in tetrahydrofuran (20 mL) under nitrogen atmosphere. The mixture was stirred for 15 minutes. To it was then added 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one (1.77 g, 10 mmol) followed by 3-phenylphenol (1.7 g, 10 mmol). The mixture was stirred at room temperature for one day and the solvent was evaporated. The residue was dissolved in ethyl acetate (150 mL) and the organic solvent was washed with 2 N hydrochloric acid (3×50 mL), saturated sodium bicarbonate solution and brine. The residue was chromatographed on silica gel eluting with ethyl acetate: hexane 2:8 to give 1.19 g (36%) of 4-[2-(biphenyl-3-yloxy)-ethyl]-1,3-dihydro-indol-2-one.

reactant | Diethyl azodicarboxylate | 10 mmol, 1.58 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 10 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxy-ethyl)-1,3-dihydro-indol-2-one | 10 mmol, 1.77 g | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | 3-phenylphenol | 10 mmol, 1.7 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-[2-(biphenyl-3-yloxy)-ethyl]-1,3-dihydro-indol-2-one | 1.19 g, 36% | C1(=CC(=CC=C1)OCCC1=C2CC(NC2=CC=C1)=O)C1=CC=CC=C1 | C22H19NO2
